datasets/10k__Tet_Int.csv
SMILES Labelled
"C[O+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](CC)[CH](C)C(CC)[S]2.C[O:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CC)C1=CC=CC=C1)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CC)C1=CC=CC=C1)C 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C)[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C)CC 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(C)C(C)C([H])C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)C([H])C(C)C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C(C)[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[OH:10]C([H])C(C)C(O)C([H])[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C([H])C(O)C(C)C([H])[OH+:10]1 10=20;20,21=21"
"[O:10]([Na])C(CC)C(C)/C([H])=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C([H])C(C)C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH:10]C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].[H][NH:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C(CC)C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C(C)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(C)C(O)C(O)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(O)C(O)C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"CCN([C:20]1(OC(C([O:21]1)C)CC)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C([O-:21])C)CC)C1=CC=CC=C1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C7=CC=CC=C7 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)C.[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C)C 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[S]2.C[S:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O][H] 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C([H])[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)C)[H])C1=CC=CC=C1)[O-:10])CC>>CCN([C:20](=[O:10])OC(C(C([O-:21])C)[H])C1=CC=CC=C1)CC 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][H])[O]C(C)C([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C([H])[S]2.[H][S:10][H] 21=20;20,10=10"
"[O:10]([Na])C([H])/C(C)=C([C:20](OC)=[O:21])/C>>[O-:21][C:20]1(OC)[O+:10]([Na])C([H])C(C)=C1C 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[NH:10]([H])C([H])C(O)C([C:20](OCC)=[O:21])[H]>>[O-:21][C:20]1(OCC)[NH+:10]([H])C([H])C(O)C1[H] 10=20;20,21=21"
"CCCCCCN([C:20]([O-:10])(OC)[O:21][H])C>>CCCCCCN([C:20](=[O:10])OC)C.[O-:21][H] 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C)C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1 10=20;20,21=21"
